US09029295B2
Production of 4-(2,6-diethyl-4-methylphenyl)-6-cyanomethyl-5-benzyloxy-2-methyl-3(2H)-pyridazinone (Compound (I-30))
To a solution of 4-(2,6-diethyl-4-methylphenyl)-6-bromomethyl-5-benzyloxy-2-methyl-3(2H)-pyridazinone (675 mg, 1.48 mmol) in DMSO (4 ml) was added sodium cyanide (80 mg, 1.63 mmol), and stirred at room temperature for 30 minutes. The reaction solution was diluted with water, and extracted with ethyl acetate 2 times. The combined organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=2:1) to give 405 mg of Compound (I-30) (yield: 66%) as solid.

reactant | 4-(2,6-diethyl-4-methylphenyl)-6-bromomethyl-5-benzyloxy-2-methyl-3(2H)-pyridazinone | 1.48 mmol, 675 mg | C(C)C1=C(C(=CC(=C1)C)CC)C=1C(N(N=C(C1OCC1=CC=CC=C1)CBr)C)=O | C24H27BrN2O2
reactant | sodium cyanide | 1.63 mmol, 80 mg | [C-]#N.[Na+]
solvent | DMSO | 4 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 4-(2,6-diethyl-4-methylphenyl)-6-cyanomethyl-5-benzyloxy-2-methyl-3(2H)-pyridazinone | 405 mg, yield: 66% | C(C)C1=C(C(=CC(=C1)C)CC)C=1C(N(N=C(C1OCC1=CC=CC=C1)CC#N)C)=O | C25H27N3O2
